US06248739B1
N-(4-Chlorobenzyl)-1-[2-(diethylamino)ethyl]-8-fluoro-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Preparation No. 15 (0.96 g) is dissolved in DMF (7 mL), and K2CO3 (1.38 g) and 2-bromo-N,N-diethylethylamine hydrobromide (1.30 g) are added. The reaction mixture is heated to 95° C. for 16. Water is added and an oily solid formed, which is isolated by decanting the liquid. Column chromatography (elution with 1-3% MeOH/CHCl3) gave 0.373 g of the title compound which is crystallized from ethyl acetate to give 0.163 g of a solid.

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C#CCO)F)C=C1 | C20H14ClFN2O3
reactant | K2CO3 | 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-N,N-diethylethylamine hydrobromide | 1.30 g | Br.BrCCN(CC)CC
reactant | Water | O | H2O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-1-[2-(diethylamino)ethyl]-8-fluoro-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.373 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)C#CCO)F)CCN(CC)CC)C=C1 | C26H27ClFN3O3
